US09126956B2
2C: (2S,4R)-2-Hydroxymethyl-2-methyl-5-(2′-methylbiphenyl-4-yl)-4-[(1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid
(2S,4R)-5-(4-bromophenyl)-2-hydroxymethyl-2-methyl-4-[(1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic acid (38 mg, 92 μmol) was combined with 2-methylphenylboronic acid (25.1 mg, 185 μmol), sodium carbonate (29.4 mg, 277 μmol), water (0.2 mL) and dioxane (1.5 mL). The reaction vessel was sealed, air was removed by vacuum, and the vessel was purged with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (21.4 mg, 18 μmol) was quickly added and air was removed by vacuum. The mixture was heated at 90° C. for 45 minutes. The mixture was acidified to pH ˜3 and filtered, and the solvate was concentrated. The residue was dissolved in AcOH (0.7 mL) and purified by preparative HPLC to yield the title compound (13.3 mg). MS m/z [M+H]+ calc'd for C23H26N4O4, 423.20. found 423.2.

reactant | (2S,4R)-5-(4-bromophenyl)-2-hydroxymethyl-2-methyl-4-[(1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic acid | 92 μmol, 38 mg | BrC1=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)C=1N=NNC1 | C16H19BrN4O4
reactant | 2-methylphenylboronic acid | 185 μmol, 25.1 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 277 μmol, 29.4 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.2 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 18 μmol, 21.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | (2S,4R)-2-Hydroxymethyl-2-methyl-5-(2′-methylbiphenyl-4-yl)-4-[(1H-[1,2,3]triazole-4-carbonyl)amino]pentanoic Acid | 13.3 mg | OC[C@@](C(=O)O)(C[C@@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)C)NC(=O)C=1N=NNC1)C | C23H26N4O4
